* Subcircuit CD4095_sub
.subckt CD4095_sub unconnected-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ unconnected-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ unconnected-_u1-pad14_ 
.title kicad schematic
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u4 net-_u1-pad5_ net-_u10-pad1_ d_inverter
* u3 net-_u1-pad4_ net-_u3-pad2_ d_inverter
* u7 net-_u1-pad9_ net-_u13-pad1_ d_inverter
* u6 net-_u1-pad10_ net-_u12-pad1_ d_inverter
* u5 net-_u1-pad11_ net-_u11-pad1_ d_inverter
* u2 net-_u1-pad3_ net-_u2-pad2_ d_inverter
* u9 net-_u3-pad2_ net-_u14-pad2_ d_inverter
* u8 net-_u2-pad2_ net-_u14-pad1_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_and
* u17 net-_u1-pad2_ net-_u17-pad2_ d_inverter
* u21 net-_u17-pad2_ net-_u21-pad2_ d_inverter
* u16 net-_u1-pad13_ net-_u16-pad2_ d_inverter
* u20 net-_u16-pad2_ net-_u20-pad2_ d_inverter
* u18 net-_u14-pad3_ net-_u10-pad2_ net-_u18-pad3_ d_and
* u15 net-_u11-pad2_ net-_u12-pad2_ net-_u15-pad3_ d_and
* u19 net-_u15-pad3_ net-_u13-pad2_ net-_u19-pad3_ d_and
* u26 net-_u24-pad2_ net-_u1-pad6_ d_inverter
* u25 net-_u23-pad2_ net-_u1-pad8_ d_inverter
* u23 net-_u22-pad6_ net-_u23-pad2_ d_inverter
* u24 net-_u22-pad7_ net-_u24-pad2_ d_inverter
* u22 net-_u18-pad3_ net-_u19-pad3_ net-_u1-pad12_ net-_u20-pad2_ net-_u21-pad2_ net-_u22-pad6_ net-_u22-pad7_ d_jkff
a1 net-_u13-pad1_ net-_u13-pad2_ u13
a2 net-_u12-pad1_ net-_u12-pad2_ u12
a3 net-_u11-pad1_ net-_u11-pad2_ u11
a4 net-_u1-pad5_ net-_u10-pad1_ u4
a5 net-_u1-pad4_ net-_u3-pad2_ u3
a6 net-_u1-pad9_ net-_u13-pad1_ u7
a7 net-_u1-pad10_ net-_u12-pad1_ u6
a8 net-_u1-pad11_ net-_u11-pad1_ u5
a9 net-_u1-pad3_ net-_u2-pad2_ u2
a10 net-_u3-pad2_ net-_u14-pad2_ u9
a11 net-_u2-pad2_ net-_u14-pad1_ u8
a12 net-_u10-pad1_ net-_u10-pad2_ u10
a13 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a14 net-_u1-pad2_ net-_u17-pad2_ u17
a15 net-_u17-pad2_ net-_u21-pad2_ u21
a16 net-_u1-pad13_ net-_u16-pad2_ u16
a17 net-_u16-pad2_ net-_u20-pad2_ u20
a18 [net-_u14-pad3_ net-_u10-pad2_ ] net-_u18-pad3_ u18
a19 [net-_u11-pad2_ net-_u12-pad2_ ] net-_u15-pad3_ u15
a20 [net-_u15-pad3_ net-_u13-pad2_ ] net-_u19-pad3_ u19
a21 net-_u24-pad2_ net-_u1-pad6_ u26
a22 net-_u23-pad2_ net-_u1-pad8_ u25
a23 net-_u22-pad6_ net-_u23-pad2_ u23
a24 net-_u22-pad7_ net-_u24-pad2_ u24
a25 net-_u18-pad3_ net-_u19-pad3_ net-_u1-pad12_ net-_u20-pad2_ net-_u21-pad2_ net-_u22-pad6_ net-_u22-pad7_ u22
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u22 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends CD4095_sub