.title kicad schematic

.include CD4095_sub.sub
x1 unconnected-_x1-pad1_ net-_u4-pad10_ net-_u4-pad7_ net-_u4-pad7_ net-_u4-pad7_ net-_u5-pad1_ net-_u4-pad10_ net-_u5-pad2_ net-_u4-pad8_ net-_u4-pad8_ net-_u4-pad8_ net-_u4-pad6_ net-_u4-pad10_ net-_u4-pad9_ CD4095_sub
* u4 clock j k net-_u4-pad4_ gnd net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ adc_bridge_5
* u6 q plot_v1
* u7 q' plot_v1
r2 q' gnd 1k
r1 q gnd 1k
* u5 net-_u5-pad1_ net-_u5-pad2_ q' q dac_bridge_2
v1 clock gnd pulse(0v 5v 0 1ps 1ps 100ms 200ms)
v2 j gnd  dc 5v
v3 k gnd  dc 5v
v4 net-_u4-pad4_ gnd  dc 5v
* u3 k plot_v1
* u1 clock plot_v1
* u2 j plot_v1
a1 [clock j k net-_u4-pad4_ gnd ] [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ ] u4
a2 [net-_u5-pad1_ net-_u5-pad2_ ] [q' q ] u5
* Schematic Name:                             adc_bridge_5, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 1000e-03 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q)
plot v(q')
plot v(k)
plot v(clock)
plot v(j)
.endc
.end
