.title kicad schematic

.include CD74HC390.sub
x1 net-_u3-pad7_ net-_u3-pad8_ net-_u17-pad1_ net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ net-_u3-pad8_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ unconnected-_x1-pad14_ unconnected-_x1-pad15_ net-_u3-pad5_ CD74HC390
v3 clk_a gnd pulse(5v 0v 0 1ps 1ps 100ms 200ms)
* u1 clk_b plot_v1
* u3 net-_u3-pad1_ clk_b clk_a gnd net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ adc_bridge_4
* u2 clk_a plot_v1
r1 gnd b 1k
v1 net-_u3-pad1_ gnd  dc 5v
v2 clk_b gnd pulse(5v 0v 0 1ps 1ps 100ms 200ms)
* u16 a plot_v1
r4 c gnd 1k
* u21 c plot_v1
* u14 b plot_v1
r2 gnd a 1k
r3 d gnd 1k
* u17 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ a b c d dac_bridge_4
* u20 d plot_v1
a1 [net-_u3-pad1_ clk_b clk_a gnd ] [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u3
a2 [net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ ] [a b c d ] u17
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u17 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 2000e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk_b)
plot v(clk_a)
plot v(a)
plot v(c)
plot v(b)
plot v(d)
.endc
.end
